US07625908B2
N-Methyl-N-{(1R)-1-methyl-2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}acetamide
The procedure described in Example 3 was repeated using 2-(chloromethyl)pyridine and N-[(1R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-N-methylacetamide to give the title compound as a light beige solid in 43% yield; NMR spectrum (DMSO-d6 373K) 1.21 (d, 3H), 1.85 (s, 3H), 2.27 (s, 3H), 2.84 (s, 3H), 4.34 (m, 1H), 4.40 (t, 1H), 5.07 (m, 1H), 5.20 (s, 2H), 7.01 (d, 1H), 7.17 (d, 1H), 7.33 (m, 2H), 7.42 (d, 1H), 7.47 (dd, 1H), 7.55 (d, 1H), 7.67 (t, 1H), 7.82 (td, 1H), 8.41 (s, 1H), 8.57 (d, 1H), 9.50 (s, 1H); Mass spectrum MH+ 472.

reactant | 2-(chloromethyl)pyridine | ClCC1=NC=CC=C1 | C6H6ClN
reactant | N-[(1R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-N-methylacetamide | OC1=C(C=C(C=C1)NC1=NC=NC2=CC=CC(=C12)OC[C@@H](C)N(C(C)=O)C)C | C21H24N4O3
product | N-Methyl-N-{(1R)-1-methyl-2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}acetamide | 43% yield | CN(C(C)=O)[C@@H](COC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C)C | C27H29N5O3
